US07884244B2
4-Bromo-indan-1-ylamine:
The title amine was generated from 4-bromo-indan-1-one (5.00 g, 23.70 mmol), NaBH3CN (10.40 g, 165.50 mmol) and NH4OAc (54.80 g, 710.95 mmol) according to the protocols as outlined in general procedure B described above.

reactant | 4-bromo-indan-1-one | 23.70 mmol, 5.00 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | NaBH3CN | 165.50 mmol, 10.40 g | [BH3-]C#N.[Na+]
product | 4-Bromo-indan-1-ylamine | BrC1=C2CCC(C2=CC=C1)N | C9H10BrN
